US04558038
In a manner described in example 5B, N-carbobenzyloxy-L-isoleucyl-N-(3-pyridyl)-glycine was treated with anhydrous hydrogen bromide in acetic acid to yield L-isoleucyl-N-(3-pyridyl)glycine hydrobromide.

reactant | N-carbobenzyloxy-L-isoleucyl-N-(3-pyridyl)-glycine | C(=O)(OCC1=CC=CC=C1)N[C@@H]([C@@H](C)CC)C(=O)N(CC(=O)O)C=1C=NC=CC1 | C21H25N3O5
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | L-isoleucyl-N-(3-pyridyl)glycine hydrobromide | Br.N[C@@H]([C@@H](C)CC)C(=O)N(CC(=O)O)C=1C=NC=CC1 | InChI=1S/C13H19N3O3.BrH/c1-3-9(2)12(14)13(19)16(8-11(17)18)10-5-4-6-15-7-10;/h4-7,9,12H,3,8,14H2,1-2H3,(H,17,18);1H/t9-,12-;/m0./s1
